US09024032B2
To tert-butyl[5-(benzyloxy)-1-(biphenyl-3-yl)-4-oxo-1,4-dihydropyridin-2-yl]carbamate (4.68 g, 10 mmol) was added TFA-DCM (1:1, 60 mL), and the resulting solution was stirred for 1 h at rt. The solution was then concentrated and treated with saturated aq. NaHCO3-EtOAc. The organic layer was separated, washed with brine, dried (Na2SO4), filtered, and concentrated to give 2-amino-5-(benzyloxy)-1-(biphenyl-3-yl)pyridin-4(1H)-one as a slightly yellow solid 1H NMR (500 MHz, DMSO): ä 7.82 (ddd, J=7.8, 1.8, 1.0 Hz, 1 H); 7.76-7.73 (m, 2 H); 7.67-7.61 (m, 2 H); 7.53-7.47 (m, 2 H); 7.43-7.34 (m, 6 H); 7.33-7.29 (m, 1 H); 7.04 (s, 1 H); 5.65 (s, 2 H); 5.49 (s, 1 H); 4.89 (s, 2 H).

reactant | tert-butyl[5-(benzyloxy)-1-(biphenyl-3-yl)-4-oxo-1,4-dihydropyridin-2-yl]carbamate | 10 mmol, 4.68 g | C(C)(C)(C)OC(NC=1N(C=C(C(C1)=O)OCC1=CC=CC=C1)C=1C=C(C=CC1)C1=CC=CC=C1)=O | C29H28N2O4
solvent | TFA DCM | 60 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 2-amino-5-(benzyloxy)-1-(biphenyl-3-yl)pyridin-4(1H)-one | NC=1N(C=C(C(C1)=O)OCC1=CC=CC=C1)C=1C=C(C=CC1)C1=CC=CC=C1 | C24H20N2O2
